US04937246
A mixture of 1,4-benzodioxane-6-carboxylic acid (0.5 g), benzene (20 ml) and thionyl chloride (5 ml) is heated for one hour under reflux. The reaction mixture is evaporated to dryness under reduced pressure. To the residue is added benzene (50 ml), then the solvent is again distilled off to leave 1,4-benzodioxane-6-carbonyl chloride. This compound dissolved in benzene (20 ml) is added dropwise, while stirring, to a mixture of 1-(3,4,5trimethoxybenzyl)piperazine dihydrochloride (1 g), triethylamine (1.5 g) and N,N-dimethylacetamide (20 ml), followed by stirring at room temperature for 30 minutes. To the reaction mixture are added water (100 ml), ethyl acetate (200 ml) and hexane (50 ml), then extraction is conducted. The extract is washed with water, dried, and concentrated under reduced pressure. The residue as purified by means of a silica gel column chromatography (hexane:acetone=1:1-2:3) to afford an oily product, which is dissolved in ethyl acetate. To the solution is added 1N hydrogen chloride - acetic acid solution (5 ml), and the mixture is left standing. The supernatant is removed by decantation, and the precipitates are recrystallized from ethyl acetate to give 1-(1,4-benzodioxan-6-ylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.7 g) as colorless prisms, m.p. 180°-185° C.

reactant | 1-(3,4,5trimethoxybenzyl)piperazine dihydrochloride | 1 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
reactant | hydrogen chloride acetic acid | 1N, 5 ml | Cl.C(C)(=O)O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
product | 1-(1,4-benzodioxan-6-ylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.7 g | Cl.O1CCOC2=C1C=CC(=C2)C(=O)N2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC | InChI=1S/C23H28N2O6.ClH/c1-27-20-12-16(13-21(28-2)22(20)29-3)15-24-6-8-25(9-7-24)23(26)17-4-5-18-19(14-17)31-11-10-30-18;/h4-5,12-14H,6-11,15H2,1-3H3;1H
